US04298741
A mixture of platinum oxide (100 mg), benzyl 6-azido-3-chloro-1-azabicyclo[3.2.0]hept-2-en-7-one-2-carboxylate (80 mg), and ethyl acetate (2 ml) is hydrogenated on a Paar shaker for 30 mins at 45 psi. The resulting mixture is filtered through a pad of silica gel G which is washed with additional ethyl acetate. The filtrate is washed with water and brine, dried with magnesium sulfate, and evaporated under vacuum to afford benzyl 6-amino-3-chloro-1-azabicyclo[3.2.0]hept-2-en-7-one-2-carboxylate.

reactant | benzyl 6-azido-3-chloro-1-azabicyclo[3.2.0]hept-2-en-7-one-2-carboxylate | 80 mg | N(=[N+]=[N-])C1C2CC(=C(N2C1=O)C(=O)OCC1=CC=CC=C1)Cl | C14H11ClN4O3
catalyst | platinum oxide | 100 mg | [Pt]=O
solvent | ethyl acetate | 2 ml | C(C)(=O)OCC | C4H8O2
product | benzyl 6-amino-3-chloro-1-azabicyclo[3.2.0]hept-2-en-7-one-2-carboxylate | NC1C2CC(=C(N2C1=O)C(=O)OCC1=CC=CC=C1)Cl | C14H13ClN2O3
